US09328118B2
A 4 M solution of hydrogen chloride in dioxane (1 ml) was added to a solution of tert-butyl 4-(2-{4-[7-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-cyano-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-2-(trifluoromethyl)phenoxy}ethyl)piperidine-1-carboxylate (150 mg) in dioxane (1 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After the reaction mixture was concentrated under reduced pressure, the precipitate was washed with diisopropyl ether, and collected by filtration, whereby 7-(2-hydroxyethyl)-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (110 mg) was obtained as a pale yellow solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-(2-{4-[7-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-cyano-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-2-(trifluoromethyl)phenoxy}ethyl)piperidine-1-carboxylate | 150 mg | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=C1N=C(N=C2C2=CC(=C(OCCC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)C(F)(F)F)C#N | C34H46F3N5O4Si
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-(2-hydroxyethyl)-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 110 mg | Cl.OCCN1C=CC2=C1N=C(N=C2C2=CC(=C(C=C2)OCCC2CCNCC2)C(F)(F)F)C#N | InChI=1S/C23H24F3N5O2.ClH/c24-23(25,26)18-13-16(1-2-19(18)33-12-6-15-3-7-28-8-4-15)21-17-5-9-31(10-11-32)22(17)30-20(14-27)29-21;/h1-2,5,9,13,15,28,32H,3-4,6-8,10-12H2;1H
